US07786165B2
methyl 4-{[3-tert-butyl-5-(2-phenylethyl)-1H-pyrazol-1-yl]methyl}benzoate
To a mixture of 3-tert-butyl-5-(2-phenylethyl)-1H-pyrazole (1.57 g, 6.87 mmol), sodium hydride (60% in oil, 280 mg, 7 mmol), and N,N-dimethylformamide (15 mL) was added methyl 4-(bromomethyl)benzoate (2.29 g, 10.0 mmol) at room temperature, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was poured into 1 M hydrochloric acid, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (5%-40% ethyl acetate/hexane) to give the title compound (1.75 g, yield 68%) as a yellow oil.

reactant | 3-tert-butyl-5-(2-phenylethyl)-1H-pyrazole | 6.87 mmol, 1.57 g | C(C)(C)(C)C1=NNC(=C1)CCC1=CC=CC=C1 | C15H20N2
reactant | sodium hydride | 7 mmol, 280 mg | [H-].[Na+]
reactant | methyl 4-(bromomethyl)benzoate | 10.0 mmol, 2.29 g | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | methyl 4-{[3-tert-butyl-5-(2-phenylethyl)-1H-pyrazol-1-yl]methyl}benzoate | 1.75 g, yield 68% | C(C)(C)(C)C1=NN(C(=C1)CCC1=CC=CC=C1)CC1=CC=C(C(=O)OC)C=C1 | C24H28N2O2
